US05516774
N-[4-[[3-(Trichloroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]phenyl]-2,4-dichlorobenzamide
To a stirred solution of 4.76 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide in 150 ml of methylene chloride is added 3.75 g of trichloroacetic anhydride followed by stirring for 18 hours. The reaction mixture is washed with water and saturated NaHCO3, dried over Na2SO4 and passed through a pad of hydrous magnesium silicate. The filtrate is evaporated in vacuo to give 2.91 g of solid.

reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide | 4.76 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C26H19Cl2N3O2
reactant | trichloroacetic anhydride | 3.75 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[[3-(Trichloroacetyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-yl]carbonyl]phenyl]-2,4-dichlorobenzamide | 2.91 g | ClC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)(Cl)Cl | C28H18Cl5N3O3
